US05187289
35.5 g (0.1 mol) of 2-nitro-2'-hydroxy-3',5'-di-t-butylazobenzene, 0.125 g of 5% palladium carbon, 100 ml of toluene, 100 ml of IPA, 100 ml water and 8.3 g of caustic soda were charged into a 500-ml stainless autoclave equipped with an agitator. After the air in the autoclave had been replaced by hydrogen, the pressure of hydrogen was set to 10 kg/cm2. Reaction was effected in the same way as that employed in Example 1. After the reaction had been completed, the catalyst was filtered off. When part of the filtrate was subjected to quantitative analysis using GC, it was found that the yield of 2-(2'-hydroxy-3',5'-di-t-butylphenyl)benzotriazole is 82%. After the solvent had been distilled off from the filtrate, the residual solid was crystallized by IPA, washed with IPA and then dried to obtain 23.6 g of 2-(2'-hydroxy-3',5'-di-t-butylphenyl)benzotriazole (yield, 73%; melting point, 150° to 152° C.).

reactant | 2-nitro-2'-hydroxy-3',5'-di-t-butylazobenzene | 0.1 mol, 35.5 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H25N3O3
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | caustic soda | 8.3 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.125 g | [C].[Pd]
solvent | water | 100 ml | O | H2O
solvent | IPA | 100 ml | CC(C)O | C3H8O
product | 2-(2'-hydroxy-3',5'-di-t-butylphenyl)benzotriazole | 23.6 g, 73% | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C20H25N3O
